US05627227
225 g (0.46 mol) of octyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate manufactured by CIBA GEIGY INC. under the trade name of "TINUVIN 109" were dissolved in 700 ml of acetone. To the resulting solution were added 600 ml of a 2N aqueous solution of sodium hydroxide followed by agitation at room temperature for 24 hours. Then, 650 ml of a 2N aqueous solution of hydrochloric acid was added to give an acidic solution and an insolubilized product was filtered off and rinsed with distilled water until the filtrate turned neutral. After vacuum-drying the product, it was recrystallized from toluene to give 3-(5-chloro-2H-benzotriazol-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy benzene propanoic acid, referred to hereinafter as a precursor (3).

reactant | octyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate | 0.46 mol, 225 g | ClC1=CC=2C(=NN(N2)C=2C=C(C=C(C2O)C(C)(C)C)CCC(=O)OCCCCCCCC)C=C1 | C27H36ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | 3-(5-chloro-2H-benzotriazol-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy benzene propanoic acid | ClC1=CC=2C(=NN(N2)C=2C=C(C=C(C2O)C(C)(C)C)CCC(=O)O)C=C1 | C19H20ClN3O3
